US09303023B2
A flask was charged with 4-nitro-1H-pyrazole (3.5 g, 30.02 mmol), 2-(boc-amino)ethylbromide (6.9 g, 30.02 mmol), Cs2CO3 (1.07 g, 33.02 mmol) and MeCN (60 mL). The resulting reaction mixture was stirred at reflux (80° C.) for 1.5 h, then allowed to reach rt. The mixture was diluted with DCM, filtered, the filter cake was washed with DCM. The filtrate was concentrated to yield tert-butyl(2-(4-nitro-1H-pyrazol-1-yl)ethyl)carbamate as a light orange oil, which was used in the next step without further purification. LC-MS conditions B: tR=0.63 min, [M+H]+=257.35.

reactant | 4-nitro-1H-pyrazole | 30.02 mmol, 3.5 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 2-(boc-amino)ethylbromide | 30.02 mmol, 6.9 g | C(=O)(OC(C)(C)C)NCCBr | C7H14BrNO2
reactant | Cs2CO3 | 33.02 mmol, 1.07 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | MeCN | 60 mL | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl(2-(4-nitro-1H-pyrazol-1-yl)ethyl)carbamate | C(C)(C)(C)OC(NCCN1N=CC(=C1)[N+](=O)[O-])=O | C10H16N4O4
